US07615568B2
D. Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoate
The methyl 2-hydroxy-4-(methylthio)benzoate (4.00 g, 20.2 mmol) was dissolved in THF (300 mL). The solution was cooled to 0° C. and the 1-Boc-4-hydroxypiperidine (4.07 g, 20.2 mmol) and triphenylphosphine (6.35 g, 24.2 mmol) were added, followed by diethyl azodicarboxylate (4.0 mL, 25.4 mmol). After 5 minutes, the reaction was allowed to warm to room temperature and left overnight. The reaction was concentrated in vacuo and the crude material was purified by flash column chromatography (about 500 g silica, 15% EtOAc/hexanes through 20% EtOAc/hexanes) to give the desired product (7.185 g, 18.83 mmol, 93%).

reactant | methyl 2-hydroxy-4-(methylthio)benzoate | 20.2 mmol, 4.00 g | OC1=C(C(=O)OC)C=CC(=C1)SC | C9H10O3S
reactant | 1-Boc-4-hydroxypiperidine | 20.2 mmol, 4.07 g | C(=O)(OC(C)(C)C)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 24.2 mmol, 6.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 25.4 mmol, 4.0 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | Methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(methylthio)benzoate | 18.83 mmol, 7.185 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)SC | C19H27NO5S
